US07259160B2
3-[(tert-Butoxycarbonyl)amino]-2-methylpropanoic acid (2.0 g, 9.9 mmol) was dissolved in acetonitrile (50 mL). To this solution was added HOBT (1.6 g, 11.85 mmol) and EDC (2.0 g, 10.4 mmol). The reaction was stirred at room temperature for 2 hr, and then treated with triethylamine (2.8 mL, 20 mmol) and N,O-dimethylhydroxyamine hydrochloride (2.0 g, 20 mmol). The reaction mixture was stirred at room temperature overnight. The reaction was quenched with water and extracted with ethyl acetate (3×). The combined organic extract was washed sequentially with 0.5N hydrochloric acid, 1N aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on a Biotage® system (silica, 40-100% ethyl acetate in hexanes) to yield tert-butyl {3-[methoxy(methyl)amino]-2-methyl-3-oxopropyl}carbamate as white solid. MS (M+1−Boc): 147.

reactant | 3-[(tert-Butoxycarbonyl)amino]-2-methylpropanoic acid | 9.9 mmol, 2.0 g | C(C)(C)(C)OC(=O)NCC(C(=O)O)C | C9H17NO4
reactant | HOBT | 11.85 mmol, 1.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 10.4 mmol, 2.0 g
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxyamine hydrochloride | 20 mmol, 2.0 g | Cl.CNOC
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | tert-butyl {3-[methoxy(methyl)amino]-2-methyl-3-oxopropyl}carbamate | CON(C(C(CNC(OC(C)(C)C)=O)C)=O)C | C11H22N2O4
